US07842713B2
2-(Methoxymethyl)-N-(5-methylpyridin-2-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide
To a solution of 2-(methoxymethyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-6-carboxylic acid (130 mg, 0.345 mmol) in DMF (5 mL) was added HATU (263 mg, 0.691 mmol) and DIEA (89.3 mg, 0.691 mmol). After stirring the solution at 0° C. for 15 minutes, 2-amino-5-methylpyridine (74.7 mg, 0.691 mmol) was added. The solution was warmed gradually to room temperature and stirred for 14 h. The reaction was concentrated under high vacuum, and the product was purified by reverse phase HPLC to give the title compound (88 mg, 55%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 2.36 (s, 3 H) 3.07 (s, 3 H) 3.46 (s, 3 H) 4.56 (s, 2 H) 6.59 (s, 1 H) 7.07-7.18 (m, 2 H) 7.53 (d, J=1.32 Hz, 1 H) 7.74 (dd, J=8.67, 1.32 Hz, 1 H) 7.85-7.95 (m, 2 H) 8.00 (s, 1 H) 8.09 (s, 1 H) 8.22 (d, J=8.67 Hz, 1 H) 9.10 (s, 1 H). LCMS m/z 467.20 (M+H)+.

reactant | 2-(methoxymethyl)-4-(4-(methylsulfonyl)phenoxy)benzofuran-6-carboxylic acid | 0.345 mmol, 130 mg | COCC=1OC2=C(C1)C(=CC(=C2)C(=O)O)OC2=CC=C(C=C2)S(=O)(=O)C | C18H16O7S
reactant | HATU | 0.691 mmol, 263 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.691 mmol, 89.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-5-methylpyridine | 0.691 mmol, 74.7 mg | NC1=NC=C(C=C1)C | C6H8N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(Methoxymethyl)-N-(5-methylpyridin-2-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide | 88 mg, 55% | COCC=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NC=C(C=C2)C)OC2=CC=C(C=C2)S(=O)(=O)C | C24H22N2O6S
